US04569801
N-[4-[4-(ethylheptylamino)butyl]phenyl]methanesulfonamide (5.56 g, 0.015 mol), prepared according to the general procedure outlined in Example 1, was dissolved in diethyl ether. The solution was cooled with a dry ice/acetone bath and diethyl ether saturated with hydrogen bromide gas was added thereto. The volatiles were evaporated under reduced pressure and 100 ml of ethyl acetate was added to the residue. The solution was triturated and appoximately 6 grams of crystals were collected. The solid was recrystallized from isopropyl alcohol to provide 2.5 g of N-[4-[4-(ethylheptylamino)butyl]phenyl]methanesulfonamide monohydrobromide. mp=98°-100° C. Yield 37%

reactant | N-[4-[4-(ethylheptylamino)butyl]phenyl]methanesulfonamide | 0.015 mol, 5.56 g | C(C)N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCCCCCC | C20H36N2O2S
reactant | hydrogen bromide | Br | BrH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[4-[4-(ethylheptylamino)butyl]phenyl]methanesulfonamide monohydrobromide | 2.5 g, Yield 37% | Br.C(C)N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCCCCCC | InChI=1S/C20H36N2O2S.BrH/c1-4-6-7-8-10-17-22(5-2)18-11-9-12-19-13-15-20(16-14-19)21-25(3,23)24;/h13-16,21H,4-12,17-18H2,1-3H3;1H
